US08114868B2
To a solution of 5-bromopyridin-2-ol (1 g, 5.75 mmol) in DMF (10 mL) were added 2-iodopropane (4.9 g, 28.75 mmol) and K2CO3 (4 g, 28.75 mmol). The mixture was stirred at rt overnight. The mixture was diluted with water (20 mL) extracted with EtOAc (3×25 mL), the combined organic phase was washed with brine, dried over Na2SO4, concentrated and purified by prep TLC to give 5-bromo-1-isopropylpyridin -2(1H)-one (380 mg, 31%). 1H NMR (CDCl3): 1.35 (d, 6H), 5.65-5.75 (m, 1H), 6.48 (d, 1H), 7.30 (m, 1H), 7.41 (d, 1H).

reactant | 5-bromopyridin-2-ol | 5.75 mmol, 1 g | BrC=1C=CC(=NC1)O | C5H4BrNO
reactant | 2-iodopropane | 28.75 mmol, 4.9 g | IC(C)C | C3H7I
reactant | K2CO3 | 28.75 mmol, 4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 5-bromo-1-isopropylpyridin -2(1H)-one | 380 mg, 31% | BrC=1C=CC(N(C1)C(C)C)=O | C8H10BrNO
